US07700644B2
In a similar manner to Example 4.1, 7-acetoxy-3-(3,4-dimethoxyphenyl)chromen-4-one (1.4 g) and 5% Pd—C (0.24 g) were suspended in absolute ethanol (200 mL) and hydrogen was introduced to the system for 55 h until the reaction was complete. Filtration and evaporation gave a cis- and trans-mixture of 7-acetoxy-3-(3,4-dimethoxyphenyl)chroman-4-ol (1.4 g, 100%). This mixture was used in the next step without any further purification.

reactant | 7-acetoxy-3-(3,4-dimethoxyphenyl)chromen-4-one | 1.4 g | C(C)(=O)OC1=CC=C2C(C(=COC2=C1)C1=CC(=C(C=C1)OC)OC)=O | C19H16O6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | Pd—C | 0.24 g | [Pd] | Pd
product | 7-acetoxy-3-(3,4-dimethoxyphenyl)chroman-4-ol | 1.4 g, 100% | C(C)(=O)OC1=CC=C2C(C(COC2=C1)C1=CC(=C(C=C1)OC)OC)O | C19H20O6
